US08809333B2
To a solution of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.8 g, 4.12 mmol) in acetonitrile (10 mL) was added cesium carbonate (3.36 g, 10.3 mmol, 2.5 eq), sodium iodide (0.124 g, 0.825 mmol, 0.2 eq) and (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate (1.54 g, 5.36 mmol, 1.3 eq). The mixture was heated at 50° C. overnight. The reaction mixture was filtered over a pad of diatomateous earth and the filtrate was evaporated to dryness. The crude product was purified by flash chromatography on silica gel eluting with 10-100% ethyl acetate/heptane to give ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoate (0.810 g, 49% yield) as a white solid. LC-MS M+H+401.3.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.12 mmol, 0.8 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium carbonate | 10.3 mmol, 3.36 g, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 0.825 mmol, 0.124 g, 0.2 eq | [I-].[Na+]
reactant | (R)-ethyl 4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 5.36 mmol, 1.54 g, 1.3 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | ethyl (2R)-2-methyl-2-(methylsulfonyl)-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]butanoate | 0.810 g, 49% yield | C[C@](C(=O)OCC)(CCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C | C17H29BN2O6S
